* OPA2992
* Created by Carolina Walter; December 14, 2021
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
* Copyright 2021 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* UNITY GAIN BANDWIDTH (GBW)
* INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* DIFFERENTIAL INPUT IMPEDANCE (Zid)
* COMMON-MODE INPUT IMPEDANCE (Zic)
* OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* SLEW RATE (SR)
* SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* LARGE SIGNAL RESPONSE
* OVERLOAD RECOVERY TIME (tor)
* INPUT BIAS CURRENT (Ib)
* INPUT OFFSET CURRENT (Ios)
* INPUT OFFSET VOLTAGE (Vos)
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
******************************************************
.subckt OPA2992 IN+ IN- VCC VEE OUT
******************************************************
* MODEL DEFINITIONS:
.model BB_SW VSWITCH(Ron=50 Roff=1e12 Von=700e-3 Voff=0)
.model ESD_SW VSWITCH(Ron=50 Roff=1e12 Von=250e-3 Voff=0)
.model OL_SW VSWITCH(Ron=1e-3 Roff=1e9 Von=900e-3 Voff=800e-3)
.model OR_SW VSWITCH(Ron=10e-3 Roff=1e9 Von=1e-3 Voff=0)
.model R_NOISELESS RES(T_ABS=-273.15)
******************************************************
V_GRp       52 MID 50
V_GRn       53 MID -35
I_OS        ESDn MID 0
I_B         25 MID 10P
V_ISCp      68 MID 65
V_ISCn      69 MID -65
V_ORn       67 VCLP -5.4
V11         73 66 0
V_ORp       65 VCLP 6.1
V12         72 64 0
V4          39 OUT 0
VCM_MIN     89 VEE_B 0
VCM_MAX     90 VCC_B 0
I_Q         VCC VEE 2.4M
XIn11       ESDn MID FEMT_0
Xi_n        MID 25 FEMT_0
Xe_n        ESDp 25 VNSE_0
C3          26 MID 5F IC=0 
R74         MID 26 R_RES_1 1MEG 
GVCCS5      26 MID VSENSE MID  -1U
C2          CLAMP MID 184.6N IC=0 
R61         MID CLAMP R_RES_2 1MEG 
XVCCS_LIM_2 27 MID MID CLAMP VCCS_LIM_2_0
R60         MID 27 R_RES_3 1MEG 
XVCCS_LIM_1 28 29 MID 27 VCCS_LIM_1_0
C23         30 MID 8P IC=0 
R73         30 31 R_RES_4 10K 
R72         31 32 R_RES_5 352K 
C22         33 MID 75.07F IC=0 
R71         33 34 R_RES_6 10K 
R70         34 35 R_RES_7 18.38K 
XVCCS_LIM_ZO 33 MID MID 36 VCCS_LIM_ZO_0
R69         35 MID R_RES_8 1 
C21         37 38 90N IC=0 
R68         38 MID R_RES_9 463.4 
R67         38 37 R_RES_10 10K 
G_Adjust2   35 MID 31 MID  1
R64         32 MID R_RES_11 1 
G_adjust1   32 MID 38 MID  22.58
R11         37 MID R_RES_12 1 
R7          36 MID 1 
Rdummy      MID 39 R_RES_13 1.01K 
Rx          39 36 R_RES_14 10.1K 
G_Aol_Zo    37 MID CL_CLAMP 39  -368.16
R63         MID 40 R_RES_15 111.1 
C6          40 41 159.2P 
R24         41 40 R_RES_16 100MEG 
G_adjust    41 MID VEE_B MID  -802.1M
R23         MID 41 R_RES_17 1 
R22         MID 42 R_RES_18 1 
GVCCS4      42 MID 43 MID  -400
R20         MID 43 R_RES_19 2.506K 
C5          43 44 3.183P 
R19         44 43 R_RES_20 1MEG 
R18         MID 44 R_RES_21 1 
GVCCS3      44 MID 45 MID  -1
R17         MID 45 R_RES_22 900.8 
C4          45 46 176.8P 
R16         46 45 R_RES_23 1MEG 
GVCCS2      46 MID VCC_B MID  -1.761M
R8          MID 46 R_RES_24 1 
R15         MID 47 R_RES_25 1 
G_2         47 MID 48 MID  -6
R2b         MID 48 R_RES_26 200K 
C1b         48 49 159F 
R1b         49 48 R_RES_27 1MEG 
R14         MID 49 R_RES_28 1 
GVCCS1      49 MID 50 MID  -1
R6          MID 50 R_RES_29 200 
C1          50 51 159.2P 
R5          51 50 R_RES_30 1MEG 
G_1         51 MID ESDp MID  -7.924M
Rsrc        MID 51 R_RES_31 1 
R13         INn_ESDp INn_ESDn R_RES_32 50 
R12         INp_ESDn INp_ESDp R_RES_33 50 
XGR_AMP     52 53 54 MID 55 56 CLAMP_AMP_HI_0
R49         52 MID R_RES_34 1G 
R54         53 MID R_RES_35 1G 
R55         VSENSE 54 R_RES_36 1M 
C16         54 MID 1F 
R50         55 MID R_RES_37 1 
R53         MID 56 R_RES_38 1 
R51         55 57 R_RES_39 1M 
R52         56 58 R_RES_40 1M 
C14         57 MID 1F 
C15         MID 58 1F 
XGR_SRC     57 58 CLAMP MID VCCS_LIM_GR_0
XVOS_DRIFT  59 25 VOS_DRIFT_0
S5          VEE INp_ESDn VEE INp_ESDn  S_VSWITCH_1
S4          VEE INn_ESDn VEE INn_ESDn  S_VSWITCH_2
S2          INn_ESDp VCC INn_ESDp VCC  S_VSWITCH_3
S3          INp_ESDp VCC INp_ESDp VCC  S_VSWITCH_4
C18         60 MID 1P 
R57         61 60 R_RES_41 100 
C17         62 MID 1P 
R56         63 62 R_RES_42 100 
R48         MID 64 R_RES_43 1 
G11         64 MID 65 MID  -1
R47         66 MID R_RES_44 1 
G10         66 MID 67 MID  -1
XIQp        VIMON MID MID VCC VCCS_LIMIT_IQ_0
XIQn        MID VIMON VEE MID VCCS_LIMIT_IQ_0
C_DIFF      ESDp ESDn 9P 
XCL_AMP     68 69 VIMON MID 70 71 CLAMP_AMP_LO_0
SOR_SWp     CLAMP 72 CLAMP 72  S_VSWITCH_5
SOR_SWn     73 CLAMP 73 CLAMP  S_VSWITCH_6
R42         70 MID R_RES_45 1 
R45         MID 71 R_RES_46 1 
R43         70 74 R_RES_47 1M 
R44         71 75 R_RES_48 1M 
C12         74 MID 1F 
C13         MID 75 1F 
XCL_SRC     74 75 CL_CLAMP MID VCCS_LIM_4_0
R41         68 MID R_RES_49 1G 
R46         MID 69 R_RES_50 1G 
XCLAWp      VIMON MID 76 VCC_B VCCS_LIM_CLAW+_0
XCLAWn      MID VIMON VEE_B 77 VCCS_LIM_CLAW-_0
R29         76 VCC_B R_RES_51 1K 
R30         76 78 R_RES_52 1M 
R32         VEE_B 77 R_RES_53 1K 
R33         79 77 R_RES_54 1M 
C9          79 MID 1F 
C8          MID 78 1F 
G8          VCC_CLP MID 78 MID  -1M
R31         VCC_CLP MID R_RES_55 1K 
G9          VEE_CLP MID 79 MID  -1M
R34         MID VEE_CLP R_RES_56 1K 
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 80 81 CLAMP_AMP_LO_0
R35         VCC_CLP MID R_RES_57 1G 
R40         VEE_CLP MID R_RES_58 1G 
R36         80 MID R_RES_59 1 
R39         MID 81 R_RES_60 1 
R37         80 82 R_RES_61 1M 
R38         81 83 R_RES_62 1M 
C10         82 MID 1F 
C11         MID 83 1F 
XCLAW_SRC   82 83 CLAW_CLAMP MID VCCS_LIM_3_0
H2          63 MID V11 -1
H3          61 MID V12 1
C19         SW_OL MID 1P 
R59         84 SW_OL R_RES_63 100 
R58         84 MID R_RES_64 1 
XOL_SENSE   MID 84 62 60 OL_SENSE_0
S1          37 38 SW_OL MID  S_VSWITCH_7
H3_2        85 MID V4 1K
S7          VEE OUT VEE OUT  S_VSWITCH_8
S6          OUT VCC OUT VCC  S_VSWITCH_9
R83         MID 86 R_RES_65 1G 
R_VOUT_S    86 VOUT_S R_RES_66 100 
C_VOUT_S    VOUT_S MID 1N 
E3          86 MID OUT MID  1
C_VIMON     VIMON MID 1N 
R_VIMON     85 VIMON R_RES_67 100 
R81         MID 85 R_RES_68 1G 
R_VCLP      87 VCLP R_RES_69 100 
C_VCLP      VCLP MID 100P 
E2          87 MID CL_CLAMP MID  1
R66         MID CL_CLAMP R_RES_70 1K 
G16         CL_CLAMP MID CLAW_CLAMP MID  -1M
R65         MID CLAW_CLAMP R_RES_71 1K 
G15         CLAW_CLAMP MID 26 MID  -1M
R62         MID VSENSE R_RES_72 1K 
G12         VSENSE MID CLAMP MID  -1M
C7          28 MID 1F 
R28         28 88 R_RES_73 1M 
R25         MID 89 R_RES_74 1G 
R26         90 MID R_RES_75 1G 
R27         MID 88 R_RES_76 1 
XVCM_CLAMP  91 MID 88 MID 90 89 VCCS_EXT_LIM_0
E6          MID 0 92 0  1
R109        VEE_B 0 R_RES_77 1 
R113        93 VEE_B R_RES_78 1M 
C35         93 0 1F 
R112        92 93 R_RES_79 1MEG 
C34         92 0 100N 
R108        92 0 R_RES_80 1T 
R111        94 92 R_RES_81 1MEG 
C33         94 0 1F 
R110        VCC_B 94 R_RES_82 1M 
R107        VCC_B 0 R_RES_83 1 
G37         VEE_B 0 VEE 0  -1
G36         VCC_B 0 VCC 0  -1
R21         95 91 R_RES_84 1K 
G6          91 95 42 40  -1M
R10         29 ESDn R_RES_85 1M 
R9          95 96 R_RES_86 1M 
R_CMR       59 96 R_RES_87 1K 
G_CMR       96 59 47 MID  -1M
C_CMn       ESDn MID 1P 
C_CMp       MID ESDp 1P 
R4          ESDn MID R_RES_88 1T 
R3          MID ESDp R_RES_89 1T 
R2          IN- ESDn R_RES_90 10M 
R1          IN+ ESDp R_RES_91 10M 

.MODEL R_RES_1 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_2 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_3 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_4 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_5 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_6 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_7 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_8 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_9 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_10 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_11 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_12 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_13 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_14 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_15 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_16 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_17 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_18 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_19 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_20 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_21 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_22 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_23 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_24 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_25 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_26 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_27 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_28 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_29 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_30 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_31 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_32 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_33 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_34 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_35 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_36 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_37 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_38 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_39 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_40 RES ( TCE=0 T_ABS=-273.15)
.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_3 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_4 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL R_RES_41 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_42 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_43 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_44 RES ( TCE=0 T_ABS=-273.15)
.MODEL S_VSWITCH_5 VSWITCH (RON=10M ROFF=1G VON=10M VOFF=0)
.MODEL S_VSWITCH_6 VSWITCH (RON=10M ROFF=1G VON=10M VOFF=0)
.MODEL R_RES_45 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_46 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_47 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_48 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_49 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_50 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_51 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_52 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_53 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_54 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_55 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_56 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_57 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_58 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_59 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_60 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_61 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_62 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_63 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_64 RES ( TCE=0 T_ABS=-273.15)
.MODEL S_VSWITCH_7 VSWITCH (RON=1M ROFF=1G VON=900M VOFF=800M)
.MODEL S_VSWITCH_8 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_9 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL R_RES_65 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_66 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_67 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_68 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_69 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_70 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_71 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_72 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_73 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_74 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_75 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_76 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_77 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_78 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_79 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_80 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_81 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_82 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_83 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_84 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_85 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_86 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_87 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_88 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_89 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_90 RES ( TCE=0 T_ABS=-273.15)
.MODEL R_RES_91 RES ( TCE=0 T_ABS=-273.15)
.ENDS OPA2992

* FEMT - INPUT CURRENT NOISE IN FA/RT-HZ
.SUBCKT FEMT_0  1 2
* INPUT VARIABLES
* SET UP 1/F NOISE
* FLWF = 1/F FREQUENCY IN HZ
.PARAM FLWF=1E-3
* NLFF = CURRENT NOISE DENSITY AT 1/F FREQUENCY IN FA/RT(HZ)
.PARAM NLFF=60
* SET UP BROADBAND NOISE
* NVRF = BROADBAND CURRENT NOISE DENSITY IN FA/RT(HZ)
.PARAM NVRF=60
* CALCULATED VALUES
.PARAM GLFF={PWR(FLWF,0.25)*NLFF/1164}
.PARAM RNVF={1.184*PWR(NVRF,2)}
.MODEL DVNF D KF={PWR(FLWF,0.5)/1E11} IS=1.0E-16
* CIRCUIT CONNECTIONS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1E9
R7 4 0 1E9
G1 1 2 3 4 1E-6
.ENDS


* VNSE - INPUT VOLTAGE NOISE IN NV/RT-HZ
.SUBCKT VNSE_0  1 2
* INPUT VARIABLES
* SET UP 1/F NOISE
* FLW = 1/F FREQUENCY IN HZ
.PARAM FLW=10
* NLF = VOLTAGE NOISE DENSITY AT 1/F FREQUENCY IN NV/RT(HZ)
.PARAM NLF=64.13
* SET UP BROADBAND NOISE
* NVR = BROADBAND VOLTAGE NOISE DENSITY IN NV/RT(HZ)
.PARAM NVR=4
* CALCULATED VALUES
.PARAM GLF={PWR(FLW,0.25)*NLF/1164}
.PARAM RNV={1.184*PWR(NVR,2)}
.MODEL DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* CIRCUIT CONNECTIONS
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ENDS


* VOLTAGE-CONTROLLED CURRENT SOURCE WITH LIMITS - AOL SECOND STAGE
.SUBCKT VCCS_LIM_2_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1.26E-1
.PARAM IPOS = 6.64
.PARAM INEG = -5.9
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS


* VOLTAGE-CONTROLLED CURRENT SOURCE WITH LIMITS - AOL FIRST STAGE
.SUBCKT VCCS_LIM_1_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS


* VOLTAGE-CONTROLLED CURRENT SOURCE WITH LIMITS - ZO OUTPUT
.SUBCKT VCCS_LIM_ZO_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 2E3
.PARAM INEG = -2E3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS



* CLAMP AMP - OVERLOAD AND GROSS CLAMP
.SUBCKT CLAMP_AMP_HI_0  VC+ VC- VIN COM VO+ VO-
*  PINS     CLAMP V+  CLAMP V-  VIN  COM   VOUT+  VOUT-
.PARAM G=10
* OUTPUT G(COM,0) WHEN CONDITION NOT MET
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS


* VOLTAGE-CONTROLLED CURRENT SOURCE WITH LIMITS - GROSS CLAMP
.SUBCKT VCCS_LIM_GR_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 14
.PARAM INEG = -12
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS


* INPUT OFFSET VOLTAGE VS. TEMPERATURE
.SUBCKT VOS_DRIFT_0  VOS+ VOS-
.PARAM DC = 0.21E-3
.PARAM POL = 1
.PARAM DRIFT = 0
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS


* VOLTAGE-CONTROLLED SOURCE WITH LIMITS - IOUT DRAW
.SUBCKT VCCS_LIMIT_IQ_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS


* CLAMP AMP - CLAW AND CURRENT LIMIT CLAMP
.SUBCKT CLAMP_AMP_LO_0  VC+ VC- VIN COM VO+ VO-
*  PINS     CLAMP V+  CLAMP V-  VIN  COM   VOUT+  VOUT-
.PARAM G=1
* OUTPUT G(COM,0) WHEN CONDITION NOT MET
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS


* VOLTAGE-CONTROLLED CURRENT SOURCE WITH LIMITS - CURRENT LIMIT CLAMP
.SUBCKT VCCS_LIM_4_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 200E-3
.PARAM INEG = -140E-3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS


* VOLTAGE-CONTROLLED CURRENT SOURCE (TABLE-DEFINED) - CLAW+
.SUBCKT VCCS_LIM_CLAW+_0  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 6.87E-5)
+(15, 4.04E-4)
+(30, 7.93E-4)
+(45, 1.27E-3)
+(60, 1.8E-3)
+(70, 2.4E-3)
+(80, 3.75E-3)
+(90, 9.83E-3)
.ENDS


* VOLTAGE-CONTROLLED CURRENT SOURCE (TABLE-DEFINED) - CLAW-
.SUBCKT VCCS_LIM_CLAW-_0  VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 7.59E-5)
+(40, 1.21E-3)
+(60, 2E-3)
+(70, 2.61E-3)
+(80, 4.42E-3)
+(90, 9.61E-3)
.ENDS


* VOLTAGE-CONTROLLED CURRENT SOURCE WITH LIMITS - CLAW CLAMP
.SUBCKT VCCS_LIM_3_0  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 100E-3
.PARAM INEG = -70E-3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS


* OVERLOAD SENSE FOR ZO SWITCHES
.SUBCKT OL_SENSE_0  COM SW+ OLN  OLP
* PINS          COM SW+ OLN OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS


* VOLTAGE-CONTROLLED CURRENT SOURCE WITH EXTERNAL LIMITS - VCM CLAMP
.SUBCKT VCCS_EXT_LIM_0  VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS


.END
